2181-02-19 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is a 61M with a PMH s/f CMML, requesting
   transfer to [**Hospital1 5**] for further management of hypoxic respiratory
   distress.
   24 Hour Events:
 EKG - At [**2181-2-18**] 11:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-2-18**] 08:45 PM
   Vancomycin - [**2181-2-18**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-19**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 82 (64 - 125) bpm
   BP: 125/48(64) {100/38(46) - 138/63(75)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    676 mL
                                                                    241 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    316 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    560 mL
   Urine:
                                                                    530 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   207 K/uL
   9.4 g/dL
   87 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   48 mg/dL
   115 mEq/L
   142 mEq/L
   29.7 %
   92.5 K/uL
        [image002.jpg]
                             [**2181-2-18**]  06:10 PM
                             [**2181-2-19**]  05:48 AM
   WBC
   104.8
   92.5
   Hct
   37.1
   29.7
   Plt
   242
   207
   Cr
   3.0
   3.0
   Glucose
   113
   87
   Other labs: PT / PTT / INR:15.1/27.9/1.3, ALT / AST:23/19, Alk Phos / T
   Bili:96/0.5, Differential-Neuts:64.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:401 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 61M with a PMH s/f CMML, requesting transfer to [**Hospital1 5**]
   for further management of hypoxic respiratory distress.
   #. Hypoxic respiratory distress:  Possible etiologies include
   pneumonia, PE, and leukostasis.  CXR shows small right pleural effusion
   and right upper lung airway disease.  Patient afebrile with scant
   sputum, however, and new lung findings developed while on
   broad-spectrum antibiotics.  D-dimer neg so PE unlikely, though assay
   can be falsely low when patient is anticoagulated, as Mr. [**Name14 (STitle) 4948**] was
   (PTT 75 at time of test).  Leukostasis also a concern given profound
   leukocytosis, though no headaches or visual changes on exam.  Heme/onc
   thinks leukostasis unlikely but will treat empirically.
   - continue vanc/zosyn
   - hydroxyurea per heme/onc
   - TLS labs [**Hospital1 **]
   - heme/onc does not believe leukapheresis indicated at this time
   - consider bronch and biopsy
   - consider LENIs
   - consider repeat D-dimer off heparin
   - taper steroids (was being treated for presumed COPD exacerb at
   [**Hospital1 **])
   #. Leukocytosis:  Patient's WBC count increased from 40K on admission
   to [**Hospital3 902**] to 104K at time of transfer.  Concerning for
   infection vs steroid-effect vs known C. diff infection effect vs
   progression or transformation of leukemia.  Per onc, in patient's with
   CMML, white counts can rise significantly in setting of infection.
   - f/u blood, urine, sputum, stool cx
   - antibiotics as above and po flagyl for C. diff
   - flow cytometry
   - consider ID c/s (reccomended by heme/onc)
   - follow up results of bone marrow biopsy performed at [**Hospital3 **]
   - Treating with Hydrea 1 gram [**Hospital1 **] to bring down WBC count acutely.
   #. Right sided pulmonary infiltrate:  Developed during hospitalization
   at [**Hospital1 **] so will treat empirically for HAP but concerned about
   leukostasis as above.
   - continue vanc/zosyn
   - sputum cx
   - heme/onc eval as above
   #. Atypical chest pain:  Symptoms fit an anginal pattern, with
   worsening left chest pain with activity, but no EKG changes or
   q-waves.  [**Month (only) 8**] be related to lung process vs MSK.
   - continue to follow
   #. C. diff:  Began four days after starting vanc/levo at [**Hospital1 **] and
   treated with po vancomycin per renal reccs by their consult service.
   - will treat with po flagyl alone and not continue po vanc
   #. Rectal mass:  Biopsied at [**Hospital1 **] by surgery under anesthesia.  Not
   visually apparent on exam.
   - f/u biopsy pathology
   #. CMML:  Diagnosed in [**2178**] and managed conservatively with close
   monitoring.  Has not received chemotherapy for this.  [**Month (only) 8**] be related to
   history of cyclophosphamide for membranous nephropathy.
   - f/u heme/onc reccs
   #. Nephrotic syndrome:  Membranous nephropathy.
   - renally dose meds
   FEN: regular diet
   EMERGENCY CONTACT:  Mrs. [**Name (NI) 4950**] [**Name (NI) 4951**], wife, Phone: [**Telephone/Fax (1) 4952**],
   Other Phone: [**Telephone/Fax (1) 4953**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-2-18**] 05:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2181-02-20 14:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is a 61M with a PMH s/f CMML, transferred
   to [**Hospital1 5**] for further management of hypoxic respiratory distress.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-19**] 10:00 AM
 LE ULTRASOUND - At [**2181-2-19**] 12:15 PM
   Chest CT
   Oncology Consult
   Surgery Consult
   Outside radiology images submitted to [**Hospital Ward Name 2884**] 4 film library to be
   uploaded
   Outside BM bx and anal biopsy received to [**Hospital1 5**] pathology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-2-18**] 08:45 PM
   Vancomycin - [**2181-2-20**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-19**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient had no complaints overnight. Feels that he
   is improving and breathing more comfortably, though notes continued
   dyspnea with exertion and insufficient oxygen therapy.
   Flowsheet Data as of  [**2181-2-20**] 02:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 87 (55 - 123) bpm
   BP: 122/49(67) {86/15(43) - 140/56(75)} mmHg
   RR: 20 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 65.3 kg
   Height: 67 Inch
             Total In:
                                                                    640 mL
                                                                  1,024 mL
   PO:
                                                                    120 mL
                                                                    460 mL
   TF:
   IVF:
                                                                    520 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    945 mL
   Urine:
                                                                  1,675 mL
                                                                    945 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,535 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Warm and well perfused, Left: Warm and well
   perfused
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Person, place, and date., Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   207 K/uL
   9.4 g/dL
   85 mg/dL
   3.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   44 mg/dL
   115 mEq/L
   141 mEq/L
   28.8 %
   77.3 K/uL
        [image002.jpg]
                             [**2181-2-18**]  06:10 PM
                             [**2181-2-19**]  05:48 AM
                             [**2181-2-19**]  03:41 PM
                             [**2181-2-20**]  05:13 AM
   WBC
   104.8
   92.5
   80.5
   77.3
   Hct
   37.1
   29.7
   31.1
   28.8
   Plt
   [**Telephone/Fax (3) 4990**]07
   Cr
   3.0
   3.0
   3.0
   3.0
   Glucose
   113
   87
   85
   Other labs: PT / PTT / INR:15.9/32.7/1.4, ALT / AST:23/19, Alk Phos / T
   Bili:96/0.5, Differential-Neuts:49.0 %, Band:3.0 %, Lymph:8.0 %,
   Mono:27.0 %, Eos:1.0 %, Fibrinogen:366 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:401 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Imaging: Chest CT w/o contrast
   Preliminary Report !! PFI !!
   Multifocal mostly dependent ground-glass opacity, consolidation and
   septal
   thickening associated with small bilateral pleural effusion, consistent
   with
   multifocal infection or aspiration. The radiological pattern is not
   typical
   for leukostasis, hemorrhage or pulmonary edema.
   Heterogeneous spleen in the setting of CMML. Small amount of ascites.
   Mild
   centrilobular emphysema, upper lobe predominant. Right basilar mucoid
   impaction. Signs of small airway disease. Severe coronary artery
   calcifications. Signs of anemia.
   ECHO: No signs of R heart strain.
   Lower Extremity US: No venous thrombus
   Assessment and Plan
   Mr. [**Known lastname **] is a 61M with a PMH s/f CMML, requesting transfer to [**Hospital1 5**]
   for further management of hypoxic respiratory distress.
    1. Hypoxic respiratory distress:  Possible etiologies include
   bacterial pneumonia, fungal pneumonia, leukostasis, ILD such as PAP, or
   PE in that order of likelihood.  Patient remains afebrile and is
   breathing more confortably with decreased oxygen requirement. Chest CT
   is most consistent with multifocal infection. However has received an
   extended course of antibiotics at the OSH continued here and remains
   significantly worse than baseline raising concern for an unusual
   pathogen such as fungal etiology, and also interstitial lung disease
   such as PAP. A bronchoscopy will be useful to determine the diagnosis.
   Leukostasis remains a possibility though his WBC is decreasing. PE is
   highly unlikely given a negative workup.
   -bronchoscopy today.
   -Check betaglucan and galactomannan
   - hydroxyurea per heme/onc
   - TLS labs [**Hospital1 **]
   - taper steroids (was being treated for presumed COPD exacerb at
   [**Hospital1 **])
   2. Leukocytosis:  Patient's WBC count increased from 40K on admission
   to [**Hospital3 902**] to 104K at time of transfer.  Now on hydroxyurea,
   trending down to 77 today. The possible causing included pulmonary
   infection, C diff,  steroid-effect, and transformation of leukemia.
   -appreciate oncology recommendations
   -continue hydroxyurea
   -Bone Marrow biopsy being read by in house pathology, f/u results
   -follow up flow cytometry
   - follow tumor lysis labs [**Hospital1 **]
    3. Rectal mass:  Found incidentally at OSH. Biopsied at OSH,
   preliminary path read concerning for SCC. CEA results within normal
   limits.
   -appreciate surgical consult recommendations
   -biopsy now in [**Hospital1 5**] pathology
   - f/u biopsy pathology
   -MRI pelvis, MRI liver
   -Endoscopic U/S
   4. C. diff confirmed while at outside hospital. On PO flagyl day [**3-3**]
   - Continue flagyl
    5. CMML:  Diagnosed in [**2178**] and managed conservatively with close
   monitoring.  Had not received chemotherapy for this.  Concern for
   possible AML transformation as above. On hydroxyurea. Management as
   above
   6.  Nephrotic syndrome:  Membranous nephropathy per past diagnosis.
   - renally dose meds
   7. Anemia. Hct drop from 37 to 30 on admission. No stable at 30. Most
   likely dilutional and possible contribution from suppression by
   hydroxyurea. No indication of bleed. Continue to follow.
   FEN: NPO for bronchoscopy.
   EMERGENCY CONTACT:  Mrs. [**Name (NI) 4950**] [**Name (NI) 4951**], wife, Phone: [**Telephone/Fax (1) 4952**],
   Other Phone: [**Telephone/Fax (1) 4953**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-2-18**] 05:59 PM
   20 Gauge - [**2181-2-19**] 04:25 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending bronchoscopy